US07381833B2
Production of di-tert-butyl cyclopropane-1,2-dicarboxylate (5b)
Sodium borohydride (103 mg, 1.81 mmol) was added to and dissolved in N,N-dimethylacetamide (1.5 mL) at room temperature, followed by addition of an N,N-dimethylacetamide solution (1.0 mL) of di-tert-butyl 1-chlorocyclopropane-1,2-dicarboxylate (cis/trans=26/74) (hereinafter the compound will be referred to as “compound (4b)”) (500 mg, 1.81 mmol) at 10° C. Cobalt chloride hexahydrate (2.4 mg, 0.010 mmol) was added to the resultant solution at the same temperature. After completion of addition, the resultant mixture was stirred at 40° C. for six hours. After completion of reaction, the whole reaction mixture was diluted with an HPLC mobile phase to 50 mL, to thereby yield a solution containing 418.8 mg (yield: 96%) of the title compound. Yield was determined by means of high performance liquid chromatography (HPLC) (the same shall apply hereinafter).

reactant | Sodium borohydride | 1.81 mmol, 103 mg | [BH4-].[Na+]
reactant | di-tert-butyl 1-chlorocyclopropane-1,2-dicarboxylate | ClC1(C(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C13H21ClO4
solvent | N,N-dimethylacetamide | 1.5 mL | CN(C(C)=O)C | C4H9NO
catalyst | Cobalt chloride hexahydrate | 0.010 mmol, 2.4 mg | O.O.O.O.O.O.[Co](Cl)Cl
solvent | N,N-dimethylacetamide | 1.0 mL | CN(C(C)=O)C | C4H9NO
product | di-tert-butyl cyclopropane-1,2-dicarboxylate | 418.8 mg, yield: 96% | C1(C(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C13H22O4
